US05498741
Preparation of monoethyl mono-4-methoxyphenyl phenylphosphonite
99 g (0.5 mol) of diethyl phenylphosphonite and 62 g (0.5 mol) of 4-methoxyphenol were mixed and heated with stirring at 415 mbar. Ethanol distilled off at 115° C. via a small column. The temperature was then increased stepwise to 160° C., and the vacuum was simultaneously increased to 70 mbar. In total, 21.5 g (0.467 mol) of ethanol distilled off. The batch was then cooled and distilled. After a first fraction of 29 g, which essentially contained the unreacted starting materials, 103 g were obtained having a boiling point from 135° to 138° C. at 0.1 to 0.2 mbar. The yield was thus 75% of theory.

reactant | diethyl phenylphosphonite | 0.5 mol, 99 g | C1(=CC=CC=C1)P(OCC)OCC | C10H15O2P
reactant | 4-methoxyphenol | 0.5 mol, 62 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | ethanol | 0.467 mol, 21.5 g | C(C)O | C2H6O
product | monoethyl mono-4-methoxyphenyl phenylphosphonite | C1(=CC=CC=C1)P(OCC)OC1=CC=C(C=C1)OC | C15H17O3P
